US08110687B2
A suspension of N-(3-tert-butylphenyl)-7-{[2-(1H-tetrazol-5-yl)pyridin-4-yl]oxy}-1,2,3,4-tetrahydronaphthalene-2-carboxamide (0.075 g, 0.16 mmol), potassium carbonate (0.11 g, 0.80 mmol), and methyl iodide (0.019 mL, 0.30 mmol) in acetone (8 mL) was allowed to stir at 0° C. for 10 min. The reaction mixture was allowed to warm to rt, diluted with water, and extracted with EtOAc. The organic solution were combined and concentrated. The residue was purified by column chromatography to give N-(3-tert-butylphenyl)-7-{[2-(1-methyl-1H-tetrazol-5-yl)pyridin-4-yl]oxy}-1,2,3,4-tetrahydronaphthalene-2-carboxamide (9.3 mg) I-321 [1H NMR (400 MHz, d6-DMSO, HCOOH salt) δ: 9.94 (s, 1H), 8.67 (d, 1H), 7.63 (t, 1H), 7.57 (d, 1H), 7.49 (d, 1H), 7.27 (d, 1H), 7.18-7.22 (m, 2H), 7.04-7.07 (m, 2H), 6.99-7.02 (m, 1H), 3.31 (s, 3H), 2.73-2.96 (m, 5H), 2.08-2.12 (m, 1H), 1.79-1.83 (m, 1H), and 1.25 (s, 9H), LCMS: (FA) ES+ 484.0, ES− 482.0] and N-(3-tert-butylphenyl)-7-{[2-(2-methyl-2H-tetrazol-5-yl)pyridin-4-yl]oxy}-1,2,3,4-tetrahydronaphthalene-2-carboxamide (10.6 mg) I-334. [1H NMR (400 MHz, d6-DMSO, HCOOH salt) δ: 9.95 (s, 1H), 8.60 (d, 1H), 7.63 (t, 1H), 7.47-7.50 (m, 2H), 7.18-7.20 (m, 2H), 7.10 (dd, 1H), 7.05-7.07 (m, 2H), 6.98 (d, 1H), 3.31 (s, 3H), 2.74-2.95 (m, 5H), 2.07-2.12 (m, 1H), 1.77-1.82 (m, 1H), and 1.25 (s, 9H), LCMS: (FA) ES+ 484.0, ES− 482.0].

reactant | N-(3-tert-butylphenyl)-7-{[2-(1H-tetrazol-5-yl)pyridin-4-yl]oxy}-1,2,3,4-tetrahydronaphthalene-2-carboxamide | 0.16 mmol, 0.075 g | C(C)(C)(C)C=1C=C(C=CC1)NC(=O)C1CC2=CC(=CC=C2CC1)OC1=CC(=NC=C1)C1=NN=NN1 | C27H28N6O2
reactant | potassium carbonate | 0.80 mmol, 0.11 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.30 mmol, 0.019 mL | CI | CH3I
solvent | acetone | 8 mL | CC(=O)C | C3H6O
solvent | water | O | H2O
product | N-(3-tert-butylphenyl)-7-{[2-(1-methyl-1H-tetrazol-5-yl)pyridin-4-yl]oxy}-1,2,3,4-tetrahydronaphthalene-2-carboxamide | 9.3 mg | C(C)(C)(C)C=1C=C(C=CC1)NC(=O)C1CC2=CC(=CC=C2CC1)OC1=CC(=NC=C1)C1=NN=NN1C | C28H30N6O2
